US07601716B2
(4-Methylpiperazin-1-yl)-{4-[5-(pyridine-3-yloxy)-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]phenyl}methanone
[4-(5-Hydroxy-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)phenyl]-(4-methylpiperazin-1-yl)methanone (20 mg) was reacted with 3-hydroxypyridine (16.2 mg) as in General Procedure 12. Silica gel chromatography using a gradient of 0-15% methanol/CH2Cl2 as the eluting solvent gave the title compound as a yellow foam (20% yield). LCMS: m/z=430.17 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.02-2.12 (m, 1H), 2.30-2.34 (m, 1H), 2.33 (s, 3H), 2.34-2.56 (m, 4H), 3.40-3.70 (m, 4H), 3.70-3.90 (m, 2H), 5.24 (bs, 1H), 5.44 (t, J=3.5 Hz, 1H), 7.26-7.29 (m, 1H), 7.31-7.37 (m, 1H), 7.41-7.50 (m, 4H), 7.58 (d, J=2.0 Hz, 1H), 8.28-8.33 (m, 2H), 8.43 (d, J=2.5 Hz, 1H).

reactant | [4-(5-Hydroxy-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)phenyl]-(4-methylpiperazin-1-yl)methanone | 20 mg | OC1C=2C=C(C=NC2NCC1)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C20H24N4O2
reactant | 3-hydroxypyridine | 16.2 mg | OC=1C=NC=CC1 | C5H5NO
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | (4-Methylpiperazin-1-yl)-{4-[5-(pyridine-3-yloxy)-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]phenyl}methanone | 20% yield | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)C=1C=NC=2NCCC(C2C1)OC=1C=NC=CC1 | C25H27N5O2
